US06316438B1
4-Cyano-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester
To a solution of 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester (10.0 g, 39.5 mmol) in DMF (50 mL) and ethanol (10 mL) was added either sodium cyanide (3.9 g, 80.0 mmol) or tetrabutylarimonium cyanide (11.8 g, 1.1 eq) or tetrabutylammonium chloride (14.7 g, 1.0 eq) and sodium cyanide (2.4 g, 1.2 eq) together. This solution or suspension was warmed up to 60° C. until reaction was completed as judged by TLC. The reaction mixture was then diluted with water (200 mL) and stirred gently at rt for 10 min. A large amount of precipitate formed. The solid was filtered and rinsed thoroughly with water to afford the title compound as an off-white solid after drying: 40-80% yield. This material was >95% pure as judged by HPLC and was used directly without further purification.

reactant | 4-chloro-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | 39.5 mmol, 10.0 g | ClC1=C2C(=NC=C1C(=O)OCC)N(N=C2)CC | C11H12ClN3O2
reactant | sodium cyanide | 80.0 mmol, 3.9 g | [C-]#N.[Na+]
reactant | cyanide | 11.8 g, 1.1 eq | [C-]#N
reactant | sodium cyanide | 2.4 g, 1.2 eq | [C-]#N.[Na+]
solvent | DMF | 50 mL | CN(C)C=O | C3H7NO
solvent | ethanol | 10 mL | C(C)O | C2H6O
catalyst | tetrabutylammonium chloride | 14.7 g, 1.0 eq | [Cl-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | water | 200 mL | O | H2O
product | 4-Cyano-1-ethyl-1H-pyrazolo[3,4-b]pyridine-5-carboxylic acid, ethyl ester | 40-80% yield | C(#N)C1=C2C(=NC=C1C(=O)OCC)N(N=C2)CC | C12H12N4O2
